US07411072B2
5-(3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1,3-dihydro-benzoimidazol-2-one
Following procedures essentially as described in Example 219, mix 11-bromomethylene-3,7-difluoro-6,11-dihydro-dibenzo[b,e]oxepine (E-isomer, 68 mg, 0.21 mmol), 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one (52 mg, 0.20 mmol), Na2CO3 (2M in water, 251 μL, 0.503 mmol), dioxane (2 mL), and Pd(PPh3)4 (12 mg, 0.010 mmol). Purify on silica gel (12 g) eluting with THF to afford a brown solid. Triturate with acetone to afford 56 mg (74%) of the title compound as a white solid. HPLC (ISO80-10) t=2.42 min, 96%; MS [ES] 375 (M−H); 1H-NMR (DMSO-d6) δ 10.58 (s, 1H), 10.46 (s, 1H), 7.57 (dd, 1H, J=8.8, 7.0 Hz), 7.24 (m, 2H), 7.00 (s, 1H), 6.81 (m, 2H), 6.72 (m, 2H), 6.64 (dd, 1H, J=10.6, 2.6 Hz), 6.59 (s, 1H), 5.55-5.19 (br d, 2H).

reactant | 11-bromomethylene-3,7-difluoro-6,11-dihydro-dibenzo[b,e]oxepine | 0.21 mmol, 68 mg | BrC=C1C2=C(OCC3=C1C=CC=C3F)C=C(C=C2)F | C15H9BrF2O
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one | 0.20 mmol, 52 mg | CC1(OB(OC1(C)C)C1=CC2=C(NC(N2)=O)C=C1)C | C13H17BN2O3
reactant | Na2CO3 | 0.503 mmol, 2M, 251 μL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.010 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-(3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1,3-dihydro-benzoimidazol-2-one | 56 mg, 74% | FC=1C=CC2=C(OCC3=C(C2=CC2=CC4=C(NC(N4)=O)C=C2)C=CC=C3F)C1 | C22H14F2N2O2
